US07169925B2
Step B2: N-(4-Chloro-2-cyanophenyl)-2,2,2-trifluoroacetamide
Stir and cool to 0° C. a solution 2-amino-N-tert-butyl-5-chlorobenzamide (5.07 g, 22.36 mmol) in dichloromethane (200 mL), and add, dropwise trifluoroacetic anhydride. Stir at ambient temperature overnight and concentrate under reduced pressure. Partition between chloroform and aqueous sodium bicarbonate, and collect the organic layer. Dry the extract with MgSO4, filter and evaporate the solvent. Triturate the residue with heptane and collect the white solid to obtain 4.80 g (82%) of the title compound: MS 249(M+H), m.p. 105–107° C.

reactant | 2-amino-N-tert-butyl-5-chlorobenzamide | 22.36 mmol, 5.07 g | NC1=C(C(=O)NC(C)(C)C)C=C(C=C1)Cl | C11H15ClN2O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(4-Chloro-2-cyanophenyl)-2,2,2-trifluoroacetamide | 4.80 g, 82% | ClC1=CC(=C(C=C1)NC(C(F)(F)F)=O)C#N | C9H4ClF3N2O
